US07825155B2
trans-1-diethylamino-3-hydroxycyclobutane
Trans-1-diethylamino-3-hydroxycyclobutane hydrochloride (197 mg, 1.10 mmol) was dissolved in methanol (3.0 mL), and thereto was added 1N aqueous sodium hydroxide solution (1.10 mL, 1.10 mmol). The mixture was evaporated, and thereto were added ethyl acetate and tetrahydrofuran, and the mixture was dried over sodium sulfate, and filtered. The filtrate was evaporated to give the titled compound.

reactant | Trans-1-diethylamino-3-hydroxycyclobutane hydrochloride | 1.10 mmol, 197 mg | Cl.C(C)N([C@@H]1C[C@H](C1)O)CC
reactant | sodium hydroxide | 1.10 mmol, 1N, 1.10 mL | [OH-].[Na+]
solvent | methanol | 3.0 mL | CO | CH4O
product | trans-1-diethylamino-3-hydroxycyclobutane | C(C)N([C@@H]1C[C@H](C1)O)CC | C8H17NO
